US07528166B2
Matairesinol (500 mg, 1.4 mmol) was dissolved in 25 ml pyridine. To the solution stearic acid anhydride (3.1 g, 5.6 mmol) was added in small portions. The temperature was raised to 65° C. and the mixture was stirred for 24 h. The solvent was removed under reduced pressure and the residue dissolved in dichloromethane. Unreacted stearic anhydride and stearic acid precipitated from the dichloromethane solution and were filtered off. The solvent was then removed and the residue was washed with n-hexane to afford matairesinol stearate as a white solid. Yield 514 mg, 41%. Purity approximately 90%, consisting of some free stearic acid and acid anhydride (NMR).

reactant | Matairesinol | 1.4 mmol, 500 mg | COC=1C=C(C=CC1O)C[C@H]2COC(=O)[C@@H]2CC=3C=CC(=C(C3)OC)O | C20H22O6
reactant | stearic acid anhydride | 5.6 mmol, 3.1 g | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | matairesinol stearate | COC=1C=C(C=CC1O)C[C@H]2COC(=O)[C@@H]2CC=3C=CC(=C(C3)OC)O.C(CCCCCCCCCCCCCCCCC)(=O)[O-] | InChI=1S/C20H22O6.C18H36O2/c1-24-18-9-12(3-5-16(18)21)7-14-11-26-20(23)15(14)8-13-4-6-17(22)19(10-13)25-2;1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20/h3-6,9-10,14-15,21-22H,7-8,11H2,1-2H3;2-17H2,1H3,(H,19,20)/p-1/t14-,15+;/m0./s1
